US08809363B2
5-chloro-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol
To a solution of (4-chloro-2-hydroxyphenyl)boronic acid (Preparation 15, 200 mg, 1.16 mmol) in dichloromethane (15 mL) was added pinacol (274 mg, 2.32 mmol) and the resulting solution was stirred at room temperature for 18 hours. The reaction mixture was washed with water (10 mL), dried over Na2SO4 and concentrated in vacuo to give the title compound as a pale yellow solid, 280 mg, in a 95% yield.

reactant | (4-chloro-2-hydroxyphenyl)boronic acid | 1.16 mmol, 200 mg | ClC1=CC(=C(C=C1)B(O)O)O | C6H6BClO3
reactant | pinacol | 2.32 mmol, 274 mg | OC(C)(C)C(C)(C)O | C6H14O2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 5-chloro-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 95% yield | ClC=1C=CC(=C(C1)O)B1OC(C(O1)(C)C)(C)C | C12H16BClO3
